US04529698
(E) (3S-trans)-3-Benzyloxycarbonylamino-4-methylazetidinone
A solution of 3.3 g of (3S-trans)-3-t-butoxycarbonylamino-4-methylazetidinone in 10 ml each of dichloromethane and anisole is cooled to 0° C. and 112 ml of trifluoroacetic acid is added. The solution is stirred for 90 minutes and evaporated in vacuo (benzene added and evaporated three times). The residue is dissolved in 70 ml of acetone and the solution is adjusted to pH 7 with 5% sodium bicarbonate solution. A total of 5.33 g of benzyl chloroformate is added over 1 hour at pH 6.5-7.5. The mixture is stirred for 30 minutes at pH 7, diluted with 100 ml of saturated salt, and extracted with ethyl acetate (three 400 ml portions). The residue obtained by evaporation is chromatographed on a 1 liter silica gel column. Elution with chloroform-ethyl acetate (4:1) gives 2.19 g of compound. Crystallization from ether-hexane yields 1.125 g of the title compound.

reactant | (3S-trans)-3-t-butoxycarbonylamino-4-methylazetidinone | 3.3 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N[C@H]1C)=O | C9H16N2O3
reactant | trifluoroacetic acid | 112 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3S-trans)-3-Benzyloxycarbonylamino-4-methylazetidinone | 2.19 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@H]1C)=O | C12H14N2O3
